US07498325B2
1-[N2-[3,5-dibromo-N-[[[(2-methoxyphenyl)methyl]amino]-carbonyl]-D,L-tyrosyl]-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine
A tetrahydrofuran solution (50 ml) of 1.0 g (1.34 mmol) of 1-[N2-(3,5-dibromo-D-tyrosyl)-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine was added dropwise over a period of 40 minutes to a suspension of 0.33 g (2.01 mmol) of CDT in 50 ml of tetrahydrofuran cooled to −10 ° C. and stirred. The reaction mixture was then stirred for 2 hours at ambient temperature and mixed with 0.22 ml (1.675 mmol) of 2-methoxy-benzenemethanamine. Then the mixture was refluxed for 2 hours and stirred overnight at ambient temperature. The reaction mixture was evaporated down in vacuo, the residue was triturated with ether and the solid obtained (1.1 g; 90% of theory) was suction filtered and dried.

reactant | 1-[N2-(3,5-dibromo-D-tyrosyl)-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine | 1.34 mmol, 1.0 g | BrC=1C=C(C[C@@H](N)C(=O)N[C@@H](CCCCNC(=O)OCC2=CC=CC=C2)C(=O)N2CCN(CC2)C2=CC=NC=C2)C=C(C1O)Br | C32H38Br2N6O5
reactant | 2-methoxy-benzenemethanamine | 1.675 mmol, 0.22 ml | COC1=C(C=CC=C1)CN | C8H11NO
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-[N2-[3,5-dibromo-N-[[[(2-methoxyphenyl)methyl]amino]-carbonyl]-D,L-tyrosyl]-N6-(phenylmethoxycarbonyl)-L-lysyl]-4-(4-pyridinyl)-piperazine | BrC=1C=C(CC(NC(=O)NCC2=C(C=CC=C2)OC)C(=O)N[C@@H](CCCCNC(=O)OCC2=CC=CC=C2)C(=O)N2CCN(CC2)C2=CC=NC=C2)C=C(C1O)Br | C41H47Br2N7O7
